US05026859
PREPARATION OF 5-(1,3-DIOXEPAN-2-YL)-2-(4-ISOPROPYL-4-METHYL-5-OXO-2-IMIDAZOLIN-2-YL)NICOTINIC ACID
5-(1,3-Dioxepan-2-yl)-2,3-pyridinedicarboxylic acid, dimethyl ester (0.9 g, 0.00305 mol) in toluene is added to 2-amino-2,3-dimethylbutyramide (0.4 g, 0.00305 mol) and potassium tert-butoxide (0.69 g, 0.0061 mol) in toluene. The mixture is heated for 3 hours from 60° to 70° C. The reaction mixture is cooled to room temperature, water is added and the mixture is concentrated in vacuo to give an oil. The oil is diluted with water and washed with ether. The aqueous solution is acidified to pH 3.1 with 2 normal hydrochloric acid solution and extracted with methylene chloride. The combined methylene chloride extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound as a white solid (0.63 g, 57%) mp 60°-69° C., identified by IR and NMR spectral analyses.

reactant | 5-(1,3-Dioxepan-2-yl)-2,3-pyridinedicarboxylic acid, dimethyl ester | 0.00305 mol, 0.9 g | O1C(OCCCC1)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C14H17NO6
reactant | 2-amino-2,3-dimethylbutyramide | 0.00305 mol, 0.4 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | potassium tert-butoxide | 0.0061 mol, 0.69 g | CC(C)([O-])C.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(1,3-DIOXEPAN-2-YL)-2-(4-ISOPROPYL-4-METHYL-5-OXO-2-IMIDAZOLIN-2-YL)NICOTINIC ACID | 0.63 g, 57% | O1C(OCCCC1)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C18H23N3O5
